US07368578B2
To a mixture of {3-methoxy-4-[(4-methyl-2-phenyl-1,3-thiazol-5-yl)methoxy]phenyl}methanol (2.35 g), 3-hydroxy-1-phenyl-1H-pyrazole-4-carbaldehyde (1.43 g), tributylphosphine (1.43 g) and tetrahydrofuran (50 mL) was added 1,1′-(azodicarbonyl)dipiperidine (2.62 g) at room temperature, and the mixture was stirred for 15 hrs. The precipitated crystals were removed by filtration and the filtrate was concentrated. The residue was subjected to silica gel column chromatography to give 3-({3-methoxy-4-[(4-methyl-2-phenyl-1,3-thiazol-5-yl)methoxy]benzyl}oxy)-1-phenyl-1H-pyrazole-4-carbaldehyde as pale-yellow crystals (2.60 g, yield 74%) from a fraction eluted with ethyl acetate-hexane (3:2, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 171-172° C.

reactant | {3-methoxy-4-[(4-methyl-2-phenyl-1,3-thiazol-5-yl)methoxy]phenyl}methanol | 2.35 g | COC=1C=C(C=CC1OCC1=C(N=C(S1)C1=CC=CC=C1)C)CO | C19H19NO3S
reactant | 3-hydroxy-1-phenyl-1H-pyrazole-4-carbaldehyde | 1.43 g | OC1=NN(C=C1C=O)C1=CC=CC=C1 | C10H8N2O2
reactant | tributylphosphine | 1.43 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 2.62 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-({3-methoxy-4-[(4-methyl-2-phenyl-1,3-thiazol-5-yl)methoxy]benzyl}oxy)-1-phenyl-1H-pyrazole-4-carbaldehyde | 2.60 g, yield 74% | COC=1C=C(COC2=NN(C=C2C=O)C2=CC=CC=C2)C=CC1OCC1=C(N=C(S1)C1=CC=CC=C1)C | C29H25N3O4S
